US05614633
To a mixture of 0.05 g of 6-pentafluoroethyl-2,2-bisfluoromethyl-4-(2-thioxo-1-pyrrolidinyl)-2H-1-benzopyran, 0.20 g of iodomethane, 0.05 g of cyanamide and 3 ml of tetrahydrofuran was added 0.06 g of sodium hydride (60%) under ice-cooling with stirring. The mixture was stirred under ice-cooling for 30 minutes and then stirred at room temperature for 17 hours. After addition of ice water, the mixture was extracted with methylene chloride. The organic layer was washed with water and dried. The solvent was distilled off and the resultant residue was purified using silica gel column chromatography (developing solution, MeOH:CH2Cl2 =1:99) to obtain 49 mg of 4-(2-cyanoimino-1-pyrrolidinyl)-6-pentafluoroethyl-2,2-bisfluoromethyl-2H-1-benzopyran represented by the following formula having a melting point of 207°-210° C.

reactant | 6-pentafluoroethyl-2,2-bisfluoromethyl-4-(2-thioxo-1-pyrrolidinyl)-2H-1-benzopyran | 0.05 g | FC(C(F)(F)F)(C=1C=CC2=C(C(=CC(O2)(CF)CF)N2C(CCC2)=S)C1)F | C17H14F7NOS
reactant | iodomethane | 0.20 g | IC | CH3I
reactant | cyanamide | 0.05 g | N#CN | CH2N2
reactant | sodium hydride | 0.06 g | [H-].[Na+]
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 4-(2-cyanoimino-1-pyrrolidinyl)-6-pentafluoroethyl-2,2-bisfluoromethyl-2H-1-benzopyran | 49 mg | C(#N)N=C1N(CCC1)C1=CC(OC2=C1C=C(C=C2)C(C(F)(F)F)(F)F)(CF)CF | C18H14F7N3O
